US05559141
d) 1-benzyl-5-[1-(4-cyanophenyl)-4-phenyl-1-butenyl]-1H-imidazole
1,95 g of 1-benzyl-5-[1-hydroxy-4-phenyl-1-(4-tert-butylaminocarbonylphenyl)butyl]-1H-imidazole is refluxed 2 hours in 40 ml of thionyl chloride.

reactant | 1-benzyl-5-[1-hydroxy-4-phenyl-1-(4-tert-butylaminocarbonylphenyl)butyl]-1H-imidazole | 1,95 g | C(C1=CC=CC=C1)N1C=NC=C1C(CCCC1=CC=CC=C1)(C1=CC=C(C=C1)C(=O)NC(C)(C)C)O | C31H35N3O2
solvent | thionyl chloride | 40 ml | S(=O)(Cl)Cl | Cl2OS
product | 1-benzyl-5-[1-(4-cyanophenyl)-4-phenyl-1-butenyl]-1H-imidazole | C(C1=CC=CC=C1)N1C=NC=C1C(=CCCC1=CC=CC=C1)C1=CC=C(C=C1)C#N | C27H23N3
